US09163003B2
2-{(S)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one
A solution of (S)-3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one (25.66 g, 85 mmol) in THF (283 mL) was cooled to −1.7° C. and to this was slowly added NaH (10.18 g, 255 mmol) and 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one (89 mmol, 17.88 g) maintaining the temperature below 5° C. The reaction vessel was immersed into an ice-water bath and allowed bath to expire overnight. When reaction was complete by LCMS (approximately 15 h), the reaction was cooled to 1.7° C. and saturated NH4Cl was slowly added, keeping the internal temperature below 10° C. The mixture was diluted with dichloromethane (500 mL) and 1 N NaOH (500 mL) and split into two batches that were processed identically. Additional 1 N NaOH (500 mL) was added and the aqueous layer was washed with dichloromethane (2×500 mL). The aqueous layer was adjusted to pH 7 using approximately 250 mL 3 N HCl and extracted with dichloromethane (4×500 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude material was taken up in dichloromethane (500 mL) and ethyl acetate (500 mL) was added. The resulting solution was concentrated to an approximate volume of 300 mL and seeded with pure title compound and concentrated further in vacuo. To this stirred solution was added ethyl acetate (500 mL) and a seed of pure title compound. Filtration of the suspension provided the title compound as a white solid (32.87 g, 70.5 mmol).

reactant | (S)-3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one | 85 mmol, 25.66 g | COC1=CC=C(C(=O)C2CCN(CC2)[C@@H]2C(NCC2)=O)C=C1 | C17H22N2O3
reactant | NaH | 255 mmol, 10.18 g | [H-].[Na+]
reactant | 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 89 mmol, 17.88 g | ClCC=1NC(C2=C(N1)CCOC2)=O | C8H9ClN2O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 283 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | NaOH | 1 N, 500 mL | [OH-].[Na+]
product | 2-{(S)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 70.5 mmol, 32.87 g | COC1=CC=C(C(=O)C2CCN(CC2)[C@@H]2C(N(CC2)CC=2NC(C3=C(N2)CCOC3)=O)=O)C=C1 | C25H30N4O5
